US08039450B2
To a 40 mL scintillation vial containing 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid (150 mg, 0.55 mmol, 1.0 eq.), EDCI (157.2 mg, 0.82 mmol, 1.5 eq.), HOBt (111.5 mg, 0.82 mmol, 1.5 eq.) and DMAP (12 mg, 0.1 mmol, 0.2 eq.) in DCM (10.0 mL) was added benzylamine (24 μL, 2.2 mmol, 4.0 eq.) drop wise. The mixture was stirred at room temperature overnight. The mixture was treated with H2O (10 mL) and the layers were separated. The aqueous was extracted with DCM (2×5 mL), combined organic phase was washed with brine (10 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give N-benzyl-4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzamide as a white solid. LCMS (m/z) 360 (M+H); 1H NMR (DMSO-d6) δ: 9.01 (t, J=6.0 Hz, 1H), 7.91-8.00 (m, 2H), 7.76 (d, J=7.9 Hz, 1H), 7.29-7.36 (m, 5H), 7.21-7.27 (m, 1H), 7.08-7.13 (m, 2H), 7.02-7.07 (m, 2H), 4.95 (s, 2H), 4.48 (d, J=6.0 Hz, 2H).

reactant | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid | 0.55 mmol, 150 mg, 1.0 eq. | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C(=O)O)C=C2 | C14H11BO5
reactant | EDCI | 0.82 mmol, 157.2 mg, 1.5 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.82 mmol, 111.5 mg, 1.5 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | benzylamine | 2.2 mmol, 24 μL, 4.0 eq. | C(C1=CC=CC=C1)N | C7H9N
catalyst | DMAP | 0.1 mmol, 12 mg, 0.2 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | N-benzyl-4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzamide | C(C1=CC=CC=C1)NC(C1=CC=C(C=C1)OC1=CC2=C(B(OC2)O)C=C1)=O | C21H18BNO4
